* source LED MULTIPLEXER
Q_Q-C1         N04822 N00506 0 Q2N3904
Q_Q-C2         N04818 N00499 0 Q2N3904
Q_Q-C3         N04814 N00492 0 Q2N3904
Q_Q-R1         N06855 N05654 N05542 Q2N3904
Q_Q-R2         N003531 N05701 N05421 Q2N3904
Q_Q-R3         N003831 N05750 N05419 Q2N3904
R_R-C1         N02465 N00506  1k TC=0,0 
R_R-C2         N01883 N00499  1k TC=0,0 
R_R-C3         N01948 N00492  1k TC=0,0 
V_Pin-C1         N02465 0 5Vdc
V_Pin-C2         N01883 0 5Vdc
V_Pin-C3         N01948 0 5Vdc
D_LED-R3C3         N05419 N04814 LW_541C-TYP 
D_LED-R3C2         N05419 N04818 LW_541C-TYP 
D_LED-R3C1         N05419 N04822 LW_541C-TYP 
D_LED-R2C2         N05421 N04818 LW_541C-TYP 
D_LED-R2C3         N05421 N04814 LW_541C-TYP 
D_LED-R2C1         N05421 N04822 LW_541C-TYP 
D_LED-R1C1         N05542 N04822 LW_541C-TYP 
D_LED-R1C2         N05542 N04818 LW_541C-TYP 
D_LED-R1C3         N05542 N04814 LW_541C-TYP 
R_R-R1         N05654 5VDC  1k TC=0,0 
R_R-R2         N05701 N06293  1k TC=0,0 
R_R-R3         N05750 N06354  1k TC=0,0 
R_R-CL1         N06855 N06025  220 TC=0,0 
R_R-CL2         N003531 N06025  220 TC=0,0 
R_R-CL3         N003831 N06025  220 TC=0,0 
V_Pin-C4         N06025 0 5Vdc
V_Pin-R2         N06293 0 5Vdc
V_Pin-R3         N06354 0 5Vdc
